US09380782B2
A mixture of the above-mentioned 1-chloro-2-methyl-3-methoxycarbonylaminobenzene 5.80 g, phosphorus pentachloride 7.53 g and chlorobenzene 50 mL was stirred with heating under reflux for one hour. The reaction mixtures were concentrated under reduced pressure to give 1-chloro-3-isocyanato-2-methylbenzene.

reactant | 1-chloro-2-methyl-3-methoxycarbonylaminobenzene | 5.80 g | ClC1=C(C(=CC=C1)NC(=O)OC)C | C9H10ClNO2
reactant | phosphorus pentachloride | 7.53 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | chlorobenzene | 50 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 1-chloro-3-isocyanato-2-methylbenzene | ClC1=C(C(=CC=C1)N=C=O)C | C8H6ClNO
